US05166347
Preparation of N-cyano-N'-[2-(4-methylphenyl)ethyl]-2-pyridinecarboximidamide (method i)
Methyl N-cyano-2-pyridinecarboximidate (0.50 g, 3.1 mmol) was dissolved in methanol (10 ml), 2-(p-tolyl)ethylamine (0.47 g, 3.5 mmol) was added, and the resulting mixture was stirred at room temperature for 1 hour. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue thus obtained was crystallized from methanol-diethyl ether to give the title compound (0.76 g, 2.9 mmol, yield: 93%) as colorless crystals.

reactant | Methyl N-cyano-2-pyridinecarboximidate | 3.1 mmol, 0.50 g | C(#N)N=C(OC)C1=NC=CC=C1 | C8H7N3O
reactant | 2-(p-tolyl)ethylamine | 3.5 mmol, 0.47 g | C1(=CC=C(C=C1)CCN)C | C9H13N
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-[2-(4-methylphenyl)ethyl]-2-pyridinecarboximidamide | 2.9 mmol, 0.76 g, yield: 93% | C(#N)NC(=NCCC1=CC=C(C=C1)C)C1=NC=CC=C1 | C16H16N4
